* C:\Users\owenr\Documents\EE251\Oscillator.asc
XU4 N003 N005 N002 X2SC2753
V5 N001 0 10
I2 N002 0 PWL(1n 2m 2n 0)
R16 N002 0 5k
L5 N004 N006 65n
R17 N006 0 4
C12 N004 N002 12p
C13 N002 0 14p
C14 N005 N004 100n
R18 N005 0 10k
R19 N001 N005 10k
R1 N001 N003 .0001
C1 N004 0 18p
XU1 N008 N009 N007 X2SC2753
C2 N009 N004 100n
R2 N001 N009 20k
R3 N007 0 4k
R5 N009 0 20k
R4 N001 N008 .0001
R6 vob 0 50
.tran 0 1000n 950n
.lib C:\Users\owenr\Documents\EE251\2SC2753.lib
.backanno
.end
